* source EDC LAB 2
D_D1         N00143 0 Dbreak 
V_V1         N00122 0 5Vdc
R_R2         N00143 N00134  50 TC=0,0 
R_R1         N00122 N00134  1500 TC=0,0 
