* source EX3_INI
R_R1         N05676 N05713  2 TC=0,0 
R_R2         N05713 N05734  3 TC=0,0 
R_R3         N05734 N05791  4 TC=0,0 
R_R4         N05791 N05787  5 TC=0,0 
R_R5         N05787 N05701  3 TC=0,0 
R_R6         N05734 N05701  4 TC=0,0 
R_R7         N05713 N05701  6 TC=0,0 
R_R8         N05701 0  1 TC=0,0 
V_V1         N05676 0 12Vdc
