* source EX3_INI
R_R3         N00215 N00193  8.89 TC=0,0 
R_R2         N00193 N00186  4.44 TC=0,0 
R_R1         N00231 N00186  13 TC=0,0 
V_V1         N00231 0 100Vdc
R_R6         0 N00211  50 TC=0,0 
R_R5         0 N00215  30 TC=0,0 
R_R4         N00211 N00193  3.7 TC=0,0 
