* source EX3_INI
V_V1         N00889 0 12Vdc
R_R2         N00667 N00589  2k TC=0,0 
R_R3         N00673 N00589  3k TC=0,0 
R_R4         0 N00667  4k TC=0,0 
R_R5         0 N00673  9k TC=0,0 
R_R1         N00589 N00889  6k TC=0,0 
