* source EX3_INI
V_p5         N00178 0 12Vdc
R_p3         0 N00163  1.4286 TC=0,0 
R_p2         N00156 N00163  1 TC=0,0 
V_p4         N00163 N00178 8Vdc
V_p1         N00156 0 30Vdc
