* source EX3_INI
V_V1         N00191 0 10Vdc
R_R1         N00191 N00170  12 TC=0,0 
V_V2         N00243 0 4Vdc
R_R2         N00170 N00250  3.5556 TC=0,0 
X_H1    N00170 N00243 N00250 0 Ex9_H1 

.subckt Ex9_H1 1 2 3 4  
H_H1         3 4 VH_H1 3
VH_H1         1 2 0V
.ends Ex9_H1
