* source EDC_LAB1
R_R2         N00529 N00784  4 TC=0,0 
R_R1         0 N00543  6 TC=0,0 
V_V1         N00529 0 12Vdc
V_V2         N00543 N00659 4Vdc
E_E1         N00784 N00659 0 N00543 2
